US04661635
A solution of 4.55 ml (41.4 mmole) of phenylacetylene in 40 ml of dry THF was cooled to 0° and 21.4 ml of 1.9M butyllithium in hexane (41.4 mmole) was added. The resulting solution was stirred for 15 minutes under N2 then transferred to a flask containing 5.53 g (40.6 mmole) of dry ZnCl2. The mixture was stirred 15 minutes at 0° and a solution of 16.33 g (33.8 mmole) of N-[2-(3,4-dimethoxyphenyl)ethyl]-2-iodo-5-methoxy-N,alphadimethylbenzenepropanamine and 0.78 g (0.68 mmoles) of tetrakis(triphenylphosphine)palladium (0) in 100 ml of THF was added. The mixture was allowed to warm to room temperature and stirred for 24 hours. The mixture was diluted with CH2Cl2 and washed with water, 5% HCl, dilute NaOH, dried (K2CO3) and the solvent evaporated in vacuo. The residue was dissolved in MeOH and ethereal hydrogen chloride added. The solvent was evaporated in vacuo and the residue crystallized from 2-propanol/ether. The solid was recrystalled from 2-propanol/ether to give 5.53 g (33% yield) of N-[2-(3,4-dimethoxyphenyl)ethyl]-5-methoxy-N,alphadimethyl-2-(phenyl)ethynyl benzenepropanamine hydrochloride, mp 119°-122° C.

reactant | phenylacetylene | 41.4 mmole, 4.55 ml | C1(=CC=CC=C1)C#C | C8H6
reactant | butyllithium | 1.9M, 21.4 ml | C(CCC)[Li]
reactant | hexane | 41.4 mmole | CCCCCC | C6H14
reactant | N-[2-(3,4-dimethoxyphenyl)ethyl]-2-iodo-5-methoxy-N,alphadimethylbenzenepropanamine | 33.8 mmole, 16.33 g | COC=1C=C(C=CC1OC)CCN(C(CCC1=C(C=CC(=C1)OC)I)C)C | C22H30INO3
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 40.6 mmole, 5.53 g | [Cl-].[Cl-].[Zn+2]
catalyst | tetrakis(triphenylphosphine)palladium | 0.68 mmoles, 0.78 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[2-(3,4-dimethoxyphenyl)ethyl]-5-methoxy-N,alphadimethyl-2-(phenyl)ethynyl benzenepropanamine hydrochloride | 5.53 g, 33% yield | Cl.COC=1C=C(C=CC1OC)CCN(C(CCC1=C(C=CC(=C1)OC)C#CC1=CC=CC=C1)C)C | InChI=1S/C30H35NO3.ClH/c1-23(31(2)20-19-25-13-18-29(33-4)30(21-25)34-5)11-14-27-22-28(32-3)17-16-26(27)15-12-24-9-7-6-8-10-24;/h6-10,13,16-18,21-23H,11,14,19-20H2,1-5H3;1H
